* C:\Users\Itba\Desktop\CircuitoPunto2.asc
Q1 C B E 0 BC547B
RG IN N002 50
Cin B IN 20n
R2 B 0 27k
R1 N001 B 100k
RC N001 C 11.2k
Cout OUT C 10n
RL OUT 0 10k
RE E 0 3k
CE E 0 2µ
Vin N002 0 SINE() AC 1
VCC N001 0 12
.model NPN NPN
.model PNP PNP
.lib C:\Users\Itba\Documents\LTspiceXVII\lib\cmp\standard.bjt
.ac dec 100 1 100meg
;tran 100m startup
.backanno
.end
